US07553836B2
Step A. Preparation of 1-(3-bromopropoxy)-2-methoxy-4-nitrobenzene
A suspension of K2CO3 (2.0 g, 14.5 mmol), dibromopropane (8.8 g, 43.4 mmol) and the potassium salt of 2-methoxy-4-nitrophenol (3.0 g, 14.5 mmol) in DMF (50 mL) was heated at 80° C. for 24 hr. After removal of any precipitate by filtration, the filtrate was partitioned between EtOAc/H2O (100/20 mL). The organic layer was washed with brine and dried over MgSO4. After removal of the solvent under vacuum, the residue was chromatographed on silica gel using 5%-20% gradient EtOAc/hexanes to elute the title compound as a yellow brownish solid (1.5 g, 36%) MS (ESI) 292 (M+H)+.

reactant | K2CO3 | 14.5 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dibromopropane | 43.4 mmol, 8.8 g | BrC(C)(C)Br | C3H6Br2
reactant | potassium | [K] | K
reactant | 2-methoxy-4-nitrophenol | 14.5 mmol, 3.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(3-bromopropoxy)-2-methoxy-4-nitrobenzene | BrCCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C10H12BrNO4
